US05571821
Sodium borohydride (0.37 g, 10 mmol) was added to 2-benzylthiophene (1.88 g, 10 mmol) dissolved in methanol/THF mixture (1:10 ratio, 11 ml). This was stirred at room temperature for 10 h. The reaction mixture was decomposed by addition of saturated ammonium chloride solution (50 ml) and was extracted with ethyl acetate (2×50 ml). The combined organic layer was dried over anhydrous MgSO4. Removal of the solvent gave 1-(2-thienyl)benzyl alcohol as a solid (1.75 g, 92% yield).

reactant | Sodium borohydride | 10 mmol, 0.37 g | [BH4-].[Na+]
reactant | 2-benzylthiophene | 10 mmol, 1.88 g | C(C1=CC=CC=C1)C=1SC=CC1 | C11H10S
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
reactant | methanol THF | 11 ml | CO.C1CCOC1
product | 1-(2-thienyl)benzyl alcohol | 1.75 g, 92% yield | S1C(=CC=C1)C1(CO)CC=CC=C1 | C11H12OS
